US07235581B2
(R)-{1-[4-(3-Fluoro-benzyloxy)-phenyl]-2-oxo-pyrrolidin-3-yl}-urea
A solution of 250 mg (0.7 mmol) of (R)-3-amino-1-[4-(3-fluoro-benzyloxy)-phenyl]-pyrrolidin-2-one hydrochloride and 294 mg (2.2 mmol) of N-ethyl-diisopropylamine in 2 ml of N,N-dimethylformamide is cooled to 0° C. and treated with 267 mg (2.2 mol) of trimethylisocyanate. The reaction mixture is left to warm to RT and stirring is continued for 2 days. For the working-up, the suspension is evaporated under reduced pressure. The crude product is triturated in water, then the recovered solid material triturated a second time in a mixture of ethyl acetate and a saturated solution of sodium hydrogencarbonate. The remaining solid is collected on a filter funnel to give, after drying under high vacuum, 155 mg (61% of theory) of (R)-{1-[4-(3-fluoro-benzyloxy)-phenyl]-2-oxo-pyrrolidin-3-yl}-urea as a white solid; MS: m/e=344 (M+H)+.

reactant | (R)-3-amino-1-[4-(3-fluoro-benzyloxy)-phenyl]-pyrrolidin-2-one hydrochloride | 0.7 mmol, 250 mg | Cl.N[C@H]1C(N(CC1)C1=CC=C(C=C1)OCC1=CC(=CC=C1)F)=O
reactant | N-ethyl-diisopropylamine | 2.2 mmol, 294 mg | C(C)N(C(C)C)C(C)C | C8H19N
reactant | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | (R)-{1-[4-(3-Fluoro-benzyloxy)-phenyl]-2-oxo-pyrrolidin-3-yl}-urea | FC=1C=C(COC2=CC=C(C=C2)N2C([C@@H](CC2)NC(=O)N)=O)C=CC1 | C18H18FN3O3
